US05420115
9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)-6-iodo-9H-purine
6-Iodopurine (Sigma Chemical Company; 0.7 g, 2.7 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.4 g, 1.7 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 20 ml of 10 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. Thymidine phosphorylase (2,640 I.U.) and purine nucleoside phosphorylase (4,360 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 21, the reaction was diluted to 50 ml with 5 mm potassium phosphate buffer, pH 7, which contained 0.04% (w/v) potassium azide and 4000 I.U. of thymidine phosphorylase and 6,500 I.U. of purine nucleoside phosphorylase were added. On day 43, the reaction was diluted to 250 ml with water and 2,000 I.U. thymidine phosphorylase and 3,250 I.U. purine nucleoside phosphorylase were added. On day 57, the reaction was filtered. The filtrate was evaporated. The residue was suspended in warm methanol and filtered. The filtrate was evaporated. The residue was dissolved in water/n-propanol (7/3) and applied to a 7.5×90 cm column of Biogel P-2 (Bio-Rad) with water/n-propanol (7/3) as the solvent. Product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in hot methanol and water added until a precipitate formed. The methanol was removed under vacuum. After standing overnight the suspension was filtered. The filter cake contained the bulk of the product. The filtrate was evaporated and the above procedure repeated to precipitate the remaining product. The filter cakes were combined and suspended in water. Lyophilization yielded the title compound.

reactant | 6-Iodopurine | 2.7 mmoles, 0.7 g | IC1=C2NC=NC2=NC=N1 | C5H3IN4
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.7 mmoles, 0.4 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | Thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | O | H2O
product | 9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)-6-iodo-9H-purine | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)I | C10H10FIN4O3
